US07355069B2
A mixture of methyl 2-[(4-{3-[(2,4-difluorobenzyl)(propyl)amino]-3-oxopropyl}phenoxy)methyl]benzoate (0.184 g, 0.382 mmol) and lithium hydroxide (0.018 g, 0.76 mmol) in THF (2 ml) and water (2 ml) was heated at 150 degrees for 7 minutes. The mixture was diluted with water, acidified with hydrochloric acid and extracted with methylene chloride. The combined extracts were dried with magnesium sulfate and evaporated to give 2-[(4-{3-[(2,4-difluorobenzyl)(propyl)amino]-3-oxopropyl}phenoxy)methyl]benzoic acid.

reactant | methyl 2-[(4-{3-[(2,4-difluorobenzyl)(propyl)amino]-3-oxopropyl}phenoxy)methyl]benzoate | 0.382 mmol, 0.184 g | FC1=C(CN(C(CCC2=CC=C(OCC3=C(C(=O)OC)C=CC=C3)C=C2)=O)CCC)C=CC(=C1)F | C28H29F2NO4
reactant | lithium hydroxide | 0.76 mmol, 0.018 g | [OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | 2-[(4-{3-[(2,4-difluorobenzyl)(propyl)amino]-3-oxopropyl}phenoxy)methyl]benzoic acid | FC1=C(CN(C(CCC2=CC=C(OCC3=C(C(=O)O)C=CC=C3)C=C2)=O)CCC)C=CC(=C1)F | C27H27F2NO4
